US04536391
A 3.27 g (18.7 mmols) quantity of crude 4-(2-hydroxycarbonylethyl)benzonitrile was admixed with 2.86 ml (20.6 mmols) of triethylamine and 40 ml of THF. To the mixture was added 1.96 ml (20.5 mmols) of ethyl chloroformate at 0° C. After stirring the reaction mixture at room temperature for 3 hours, the insolubles were filtered off. The filtrate was concentrated to give a yellow oil, which was then diluted with 100 ml of benzene. The benzene layer was washed with saturated aqueous solution of NaHCO3, dried over Na2SO4 and concentrated to obtain a yelllow oil. This oil was dissolved in 40 ml of THF-water (8:2). To the solution was added 2.13 g (56.1 mmols) of NaBH4 at 0° C. The reaction mixture was stirred at 0° C. for 2 hours and then poured into 100 ml of 3 mol dm-3HCl, followed by extraction with ethyl acetate. The extract was dried over Na2SO4 and concentrated, giving 2.71 g (yield 90%) of 4-(3-hydroxypropyl)benzonitrile in the form of an oil.

reactant | 4-(2-hydroxycarbonylethyl)benzonitrile | OC(=O)CCC1=CC=C(C#N)C=C1 | C10H9NO2
reactant | triethylamine | 20.6 mmols, 2.86 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 20.5 mmols, 1.96 ml | ClC(=O)OCC | C3H5ClO2
reactant | NaBH4 | 56.1 mmols, 2.13 g | [BH4-].[Na+]
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | THF water | 40 ml | C1CCOC1.O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 4-(3-hydroxypropyl)benzonitrile | 2.71 g, yield 90% | OCCCC1=CC=C(C#N)C=C1 | C10H11NO
